US08629271B2
b) 3-(3-((4-(2-Methylthiazole-4-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)methyl)phenethoxy)propanoic acid
tert-Butyl 3-(3-((4-(2-methylthiazole-4-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)methyl)phenethoxy)propanoate (Example 277, step a) was dissolved in DCM (10 mL) and TFA (2 mL) was added. The resulting mixture was stirred for 2 h then evaporated. The residue was azeotroped with toluene and redissolved in MeCN (10 mL). This was applied to a SCX cartridge (50 g, Varian) which had been pre-wetted with MeCN. The cartridge was washed with MeCN (100 mL) and eluted with 880 aqueous ammonia in MeCN (1:4, 100 mL). The eluent was evaporated to afford the subtitled compound. Material used directly in the next step.

reactant | tert-Butyl 3-(3-((4-(2-methylthiazole-4-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)methyl)phenethoxy)propanoate | CC=1SC=C(N1)C(=O)N1CCOC2(C1)CCN(CC2)CC=2C=C(CCOCCC(=O)OC(C)(C)C)C=CC2 | C29H41N3O5S
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-((4-(2-Methylthiazole-4-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)methyl)phenethoxy)propanoic acid | CC=1SC=C(N1)C(=O)N1CCOC2(C1)CCN(CC2)CC=2C=C(CCOCCC(=O)O)C=CC2 | C25H33N3O5S
